US07276324B2
The procedure of Synthesis Example 1 was repeated except that 2-morpholinoethanol was used instead of the triethanolamine, and 4-phenylbenzoyl chloride was used instead of the benzoyl chloride, to give 2-morpholinoethyl 4-phenylbenzoate in a yield of 93%.

reactant | 2-morpholinoethanol | O1CCN(CC1)CCO | C6H13NO2
reactant | 4-phenylbenzoyl chloride | C1(=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO
product | 2-morpholinoethyl 4-phenylbenzoate | yield of 93% | C1(=CC=CC=C1)C1=CC=C(C(=O)OCCN2CCOCC2)C=C1 | C19H21NO3
